US03944410
A solution of trifluoromethyl isocyanate (11.1 grams, 0.1 mol) in diethyl ether (35 ml) is added dropwise, with stirring to a solution of N-phenyl hydroxylamine (10.9 grams; 0.1 mol) in ether (60 ml) at room temperature. Stirring is continued for a period of about 1 hour resulting in a precipitate. Pentane is added to the mixture to form additional precipitate. The precipitate is then recovered by filtration, is washed and dried to yield 1-trifluoromethyl-3-phenyl-3-hydroxyurea.

reactant | trifluoromethyl isocyanate | 0.1 mol, 11.1 grams | FC(F)(F)N=C=O | C2F3NO
reactant | N-phenyl hydroxylamine | 0.1 mol, 10.9 grams | C1(=CC=CC=C1)NO | C6H7NO
reactant | Pentane | CCCCC | C5H12
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 1-trifluoromethyl-3-phenyl-3-hydroxyurea | FC(NC(=O)N(O)C1=CC=CC=C1)(F)F | C8H7F3N2O2
